US09212196B2
ethyl 2-(4-formyl-2,6-dimethylphenoxy)acetate
To a solution of 4-hydroxy-3,5-dimethylbenzaldehyde (500 mg, 3.33 mmol) in acetone (20 mL) was added cesium carbonate (1.41 g, 4.33 mmol), followed by ethyl bromoacetate (0.555 mL, 5 mmol). The mixture was refluxed in acetone under stirring for 1 hour. After evaporation of acetone under reduced pressure, 100 mL of water were added and the mixture was extracted with dichloromethane (200 mL). The organic phase was washed with brine (100 mL), dried over magnesium sulfate and concentrated under vacuum. The residue was purified by column chromatography over silica gel (eluent: dichloromethane) to give 580 mg of an oil (74% yield). 1H NMR (250 MHz, CDCl3): δ 1.25 (t, J=6.9 Hz, 3H), 4.27 (s, 6H), 4.21 (q, J=6.9 Hz, 2H), 4.38 (s, 2H), 7.44 (s, 2H), 9.77 (s, 1H). 13C NMR (126 MHz, CDCl3): δ 15.2, 17.4, 62.2, 70.1, 131.6, 132.8, 133.8, 161.7, 169.5, 192.1.

reactant | 4-hydroxy-3,5-dimethylbenzaldehyde | 3.33 mmol, 500 mg | OC1=C(C=C(C=O)C=C1C)C | C9H10O2
reactant | cesium carbonate | 4.33 mmol, 1.41 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl bromoacetate | 5 mmol, 0.555 mL | BrCC(=O)OCC | C4H7BrO2
solvent | acetone | 20 mL | CC(=O)C | C3H6O
product | ethyl 2-(4-formyl-2,6-dimethylphenoxy)acetate | 580 mg, 74% yield | C(=O)C1=CC(=C(OCC(=O)OCC)C(=C1)C)C | C13H16O4
